US08012966B2
A stirred solution of 4-methyl-2-[(2-pyrrolidin-1-yl-ethylcarbamoyl)-methyl]-1H-pyrrole-3-carboxylic acid ethyl ester (1.843 g, 6 mmol) in 12 ml of anhydrous tetrahydrofuran was added dropwise slowly with borane-tetrahydrofuran in tetrahydrofuran (18 ml, 18 mmol) under an argon atmosphere. Upon completion of the addition, the mixture was stirred for 1 hour at room temperature and heated to reflux for another 5 hours. The reaction mixture was added with cold water (5 ml) and 1N hydrochloric acid (20 ml) dropwise. The mixture was stirred for another 5 minutes, adjusted to pH 10 with 10% aqueous sodium hydroxide solution and extracted with ethyl acetate (20 ml×3). The combined organic extracts were washed with brine (15 ml), dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 4-methyl-2-[2-(2-pyrrolidin-1-yl-ethylamino)-ethyl]-1H-pyrrole-3-carboxylic acid ethyl ester (1.441 g) as a brown oil which was used as such.

reactant | 4-methyl-2-[(2-pyrrolidin-1-yl-ethylcarbamoyl)-methyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 6 mmol, 1.843 g | C(C)OC(=O)C1=C(NC=C1C)CC(NCCN1CCCC1)=O | C16H25N3O3
reactant | borane tetrahydrofuran | B.O1CCCC1
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18 mmol, 18 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 4-methyl-2-[2-(2-pyrrolidin-1-yl-ethylamino)-ethyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 1.441 g | C(C)OC(=O)C1=C(NC=C1C)CCNCCN1CCCC1 | C16H27N3O2
